US07598423B2
Synthesis of 1-{3-chloro-2-hydroxy-4-[3-(3-iodo-benzyl)-[1,2,4]oxadiazol-5-ylmethoxy]-phenyl}-ethanone
The title compound is prepared essentially as described for 1-{2-hydroxy-4-[3-(3-iodo-benzyl)-[1,2,4]oxadiazol-5-ylmethoxy]-3-methyl-phenyl}-ethanone, employing 1-(3-chloro-2,4-dihydroxy-phenyl)-ethanone (57%). LC-MS (m/e): 483 (M−1).

reactant | 1-{2-hydroxy-4-[3-(3-iodo-benzyl)-[1,2,4]oxadiazol-5-ylmethoxy]-3-methyl-phenyl}-ethanone | OC1=C(C=CC(=C1C)OCC1=NC(=NO1)CC1=CC(=CC=C1)I)C(C)=O | C19H17IN2O4
reactant | 1-(3-chloro-2,4-dihydroxy-phenyl)-ethanone | ClC=1C(=C(C=CC1O)C(C)=O)O | C8H7ClO3
product | 1-{3-chloro-2-hydroxy-4-[3-(3-iodo-benzyl)-[1,2,4]oxadiazol-5-ylmethoxy]-phenyl}-ethanone | ClC=1C(=C(C=CC1OCC1=NC(=NO1)CC1=CC(=CC=C1)I)C(C)=O)O | C18H14ClIN2O4
